US04618359
Preparation of 3-Tetrahydrofuryl 2-Nitro-5-(2-chloro-4-trifluoromethylphenoxy)benzoate
3-Hydroxytetrahydrofuran (1.76 grams; 0.02 mole), toluene (50 ml) and triethylamine (2.0 grams; 0.02 mole) were charged into a glass reaction vessel equipped with a mechanical stirrer and addition funnel. A solution of 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl chloride (7.60 grams; 0.02 mole) in toluene (10 ml) was slowly added with stirring. After the addition was completed, stirring was continued overnight. After this time, the reaction mixture was washed with water and dried over anhydrous sodium sulfate. The dried solution was then stripped of solvent under reduced pressure leaving a brown oil. This oil was purified by silica gel chromatography using toluene and ethyl acetate/toluene mixtures as the eluant. The purified oil was triturated in ethanol to yield the desired product 3-tetrahydrofuryl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)benzoate as a white solid, melting point at 55° C.

reactant | 3-Hydroxytetrahydrofuran | 0.02 mole, 1.76 grams | OC1COCC1 | C4H8O2
reactant | triethylamine | 0.02 mole, 2.0 grams | C(C)N(CC)CC | C6H15N
reactant | 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl chloride | 0.02 mole, 7.60 grams | [N+](=O)([O-])C1=C(C(=O)Cl)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C14H6Cl2F3NO4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-tetrahydrofuryl 2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)benzoate | [N+](=O)([O-])C1=C(C(=O)OC2COCC2)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C18H13ClF3NO6
